reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:12])[C@:3]([C:4]([H:14])([H:15])[H:16])([H:13])[N:5]([H:17])[C@@:6]1([O:7][H:11])[H:18])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],70.71193137581689
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[C:5]=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14],79.1398980554325
[C:1]([C:2]([O:3][C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](#[N:5])[H:12]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],84.03988904603051
[C:1](=[C:2]([C@@:3]1([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13])[H:9])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],42.3736816252741
[O:1]([C:7]([C:5]([C:4]([C:3](=[C:2]([H:9])[H:10])[H:11])([H:12])[H:13])=[O:6])([H:14])[H:15])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],81.8633930658609
[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[O:4][C@@:5]12[H:11])[H:7].[O:6]([H:10])[H:12]>>[O:1]([C@@:2]1([H:8])[C@:3]([O:4][H:10])([H:9])[C@:5]1([O:6][H:12])[H:11])[H:7],45.6884528534461
[C:3]1([H:9])=[C:5]([H:12])[C:4]1([H:10])[H:11].[C:6](#[N:7])[H:8].[O+:1]#[C-:2]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[C@:5]1([C:6]#[N:7])[H:12])[H:8],36.72473648571761
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:3]([H:10])[H:11])[C:5]#[N:6])([H:7])[H:8].[O:4]([H:9])[H:12],63.05157978182589
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:4](=[C:5](\[O:6][H:15])[H:16])[H:14])[H:10])([H:7])([H:8])[H:9],72.13607039786
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]=[O:6])[H:13])([H:7])([H:8])[H:9].[H:14][H:15],77.4835147182447
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[N:4][H:14])([H:12])[H:13].[C:5](=[O:6])([H:9])[H:15],94.27949659419001
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[N+:2]1[N:3]([H:8])[C:4]([H:10])=[N:5][N-:6]1)([H:7])[H:9],79.7043354935769
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:4]1=[C:3]2[C@@:5]1([H:8])[O:6]2)[H:7],106.853451136944
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O+:6]=[C-:5][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.506381816909396
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C-:3]=[O+:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],53.4666769913426
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],18.842048514662995
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],66.90028246347612
[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C@@:4]([C:6]#[C:7][H:15])([H:11])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],60.2487448614647
[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][H:8])[H:12])([C:6](=[O:7])[H:13])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],65.7983592770306
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[N:5]([C+:6]([O-:7])[H:18])[H:17])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],99.91936615968369
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[C:3](=[O:4])([H:10])[H:11].[O:1]([C:2]([H:8])([H:9])[H:12])[H:7],91.9957509788483
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([C+:3]([H:12])[H:13])[H:11])([H:8])[H:10].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:9],68.92564665551501
[C:1]([C:2]([C:3](=[O:4])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15].[H:13][H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],46.07596574060131
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([O+:6]=[C-:5][H:14])[H:10])([H:7])([H:8])[H:9],109.240634097108
